US06362210B1
a) methyl 2-nitro-5-(3,5-dimethyl-pyrazol-1-yl)-benzoate
A solution of 2.84 g (10 mmol) of 3-methoxycarbonyl-4-nitro-phenylhydrazine, 1.0 g (10 mmol) of acetylacetone and 3.0 ml of triethylamine in 40 ml of methanol is stirred overnight at ambient temperature. Then it is evaporated to dryness, the residue is dissolved in about 50 ml of dichloromethane, the solution is washed with 5% sodium hydrogen carbonate solution, dried and evaporated down again. The crude product thus obtained is purified by column chromatography over silica gel (eluant: dichloromethane).

reactant | 3-methoxycarbonyl-4-nitro-phenylhydrazine | 10 mmol, 2.84 g | COC(=O)C=1C=C(C=CC1[N+](=O)[O-])NN | C8H9N3O4
reactant | acetylacetone | 10 mmol, 1.0 g | C(C)(=O)CC(C)=O | C5H8O2
reactant | triethylamine | 3.0 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 40 ml | CO | CH4O
product | methyl 2-nitro-5-(3,5-dimethyl-pyrazol-1-yl)-benzoate | [N+](=O)([O-])C1=C(C(=O)OC)C=C(C=C1)N1N=C(C=C1C)C | C13H13N3O4
